US07576215B2
4-(3-HYDROXYPHENYL)-8-(TRIFLUOROMETHYL)QUINOLINE-3-CARBONITRILE
The title compound was prepared from 4-chloro-8-(trifluoromethyl)quinoline-3-carbonitrile and 3-hydroxyphenylboronic acid according to the procedure of Example 1. HRMS: calcd for C17H9F3N2O+H+, 315.07397; found (ESI, [M+H]+), 315.0752.

reactant | 4-chloro-8-(trifluoromethyl)quinoline-3-carbonitrile | ClC1=C(C=NC2=C(C=CC=C12)C(F)(F)F)C#N | C11H4ClF3N2
reactant | 3-hydroxyphenylboronic acid | OC=1C=C(C=CC1)B(O)O | C6H7BO3
product | 4-(3-HYDROXYPHENYL)-8-(TRIFLUOROMETHYL)QUINOLINE-3-CARBONITRILE | OC=1C=C(C=CC1)C1=C(C=NC2=C(C=CC=C12)C(F)(F)F)C#N | C17H9F3N2O
